US04562198
64.9 g (0.94 mole) of imidazole and 129.7 g (0.94 mole) of potassium carbonate are dissolved in 1,300 ml of toluene. 173.9 g (0.47 mole) of 1-bromo-1-(4-chlorophenylthio)-5-chloro-3,3-dimethyl-2-pentanone in 360 ml of toluene are added dropwise to this mixture at 80° C. The reaction mixture is subsequently stirred at 90° C. for 15 hours and is cooled, and the inorganic residue is filtered off with suction. The filtrate is washed with water, dried over sodium sulphate and concentrated. The residue is recrystallized from diethyl ether. 61.4 g (40.8% of theory) of 4-chlorophenylthio-(imidazol-1-yl)-(3,3-dimethyl-tetrahydrofuran-2-ylidene)-methane of melting point 134° C. are obtained.

reactant | imidazole | 0.94 mole, 64.9 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.94 mole, 129.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-1-(4-chlorophenylthio)-5-chloro-3,3-dimethyl-2-pentanone | 0.47 mole, 173.9 g | BrC(C(C(CCCl)(C)C)=O)SC1=CC=C(C=C1)Cl | C13H15BrCl2OS
solvent | toluene | 1,300 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 360 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chlorophenylthio-(imidazol-1-yl)-(3,3-dimethyl-tetrahydrofuran-2-ylidene)-methane | 61.4 g, 40.8% | ClC1=CC=C(C=C1)SC(=C1OCCC1(C)C)N1C=NC=C1 | C16H17ClN2OS
